US05977178
(2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid (391 mg, 1.4 mmol) was dissolved in N,N-dimethylformamide (6 ml). 1-Hydroxybenzotriazole hydrate (189 mg, 1.4 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride were added. The reaction mixture was stirred for 10 min at room temperature. 2-Amino-1,1-dimethylethyl acetate hydrochloride (237 mg, 1.4 mmol) was added as a solid. Ethyldiisopropylamine (0.53 ml, 3.1 mmol) was added. The reaction mixture was stirred for 20 h at room temperature. It was diluted with ethyl acetate (200 ml) and washed with 1N hydrochloric acid. The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (100 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using ethyl acetate/heptane (1:1) as eluent, to give 442 mg of 2-((2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionylamino)-1,1-dimethylethyl acetate.

reactant | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid | 1.4 mmol, 391 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | 1-Hydroxybenzotriazole hydrate | 1.4 mmol, 189 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | 2-Amino-1,1-dimethylethyl acetate hydrochloride | 1.4 mmol, 237 mg | Cl.C(C)(=O)OC(CN)(C)C
reactant | Ethyldiisopropylamine | 3.1 mmol, 0.53 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-((2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionylamino)-1,1-dimethylethyl acetate | 442 mg | C(C)(=O)OC(CNC([C@@H](CC1=CC=CC=C1)N(C)C(=O)OC(C)(C)C)=O)(C)C | C21H32N2O5
